US05280039
A. Methyl 3-methoxy-4-methylbenzoate
A solution of 3-methoxy-4-methylbenzoic acid (10 grams) in 200 mL of methanol was saturated with hydrochloric acid gas. The resulting solution was warmed on a steam bath for 4 hours. The reaction was allowed to cool and the methanol was evaporated. The residue was dissolved in ethyl acetate and the ethyl acetate layer was washed with water, dried over sodium sulfate and evaporated to give the title compound. NMR (CDCl3) δ:2.15 (s, 3H), 3.80 (s, 3H), 7.48-7.18 (m, 3H).

reactant | 3-methoxy-4-methylbenzoic acid | 10 grams | COC=1C=C(C(=O)O)C=CC1C | C9H10O3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 200 mL | CO | CH4O
product | Methyl 3-methoxy-4-methylbenzoate | COC=1C=C(C(=O)OC)C=CC1C | C10H12O3
